US04486428
8-Hydroxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)-tetralin-1-carbonyl urea
By reacting 1.2 g. (2 mmole) p-nitrophenyl 8-benzyloxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin-1-carboxylate, 0.3 g. (5 mmole) urea and 0.248 g. (10 mmole) sodium hydride in 12 ml. dimethylsulfoxide at room temperature for one hour and isolation of product by the method of Example 89, Part B and removal of benzyl group by hydrogenolysis by the procedure of Example 89, Part C affords the pure title compound in 36% overall yield. 1H-NMR (CDCl3) ppm (delta): 0.77 (s, 3H), 1.1 (m, 8H), 1.7 (m, 4H), 2.5 (m, 4H), 3.6 (m, 1H), 4.16 (m, 1H), 5.7 (s, 1H), 6.1 (s, 2H), 7.1 (s, 5H), 8.2 (s, 2H).

reactant | p-nitrophenyl 8-benzyloxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin-1-carboxylate | 2 mmole | C(C1=CC=CC=C1)OC=1C=C(C=C2CC(CC(C12)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C)C)OC(C)CCCC1=CC=CC=C1 | C37H39NO6
reactant | urea | 5 mmole | NC(=O)N | CH4N2O
reactant | sodium hydride | 10 mmole | [H-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 8-Hydroxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)-tetralin-1-carbonyl urea | OC=1C=C(C=C2CC(CC(C12)C(=O)NC(=O)N)(C)C)OC(C)CCCC1=CC=CC=C1 | C25H32N2O4
